US04215118
5.0 pts. by wt. of 2-amino-furfurylacetic acid (Rohm and Haas, Netherlands Application No. 66,07754) in 100 pts. by vol. of 80 percent strength aqueous dioxane are brought to pH with 4 N sodium hydroxide solution. 8.0 pts. by wt. of 2-(t-butoxycarbonyloxyimino)-2-phenylacetonitrile are added and the mixture is warmed to 70° for 2 hrs. During this time, the above pH is maintained by adding 4 N sodium hydroxide solution. Thereafter, 80 pts. by vol. of water are added, the dioxane is stripped off and the reaction mixture is extracted several times with ethyl acetate. The aqueous phase is brought to pH 4 with 10 percent strength citric acid, and is saturated with sodium chloride and extracted by shaking with ethyl acetate. The ethyl acetate phases are dried over sodium sulphate and concentrated. The residue is recrystallized from a little abs. carbon tetrachloride. 4.3 pts. by wt. of 2-t-butoxycarbonylamino-furfurylacetic acid of melting point 99°-101° are obtained.

reactant | 2-amino-furfurylacetic acid | NC1(CCC(=O)O)CC=CO1 | C7H11NO3
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
reactant | 2-(t-butoxycarbonyloxyimino)-2-phenylacetonitrile | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-t-butoxycarbonylamino-furfurylacetic acid | C(C)(C)(C)OC(=O)NC1(CCC(=O)O)CC=CO1 | C12H19NO5
